US03933829
4-Acetamido-N-(1-n-butyl-4-piperidyl)-benzenesulphonamide.
7.0 Grams of N-acetylsulphanilyl chloride were added in portions to a stirred, ice cooled, mixture of 4.7 grams of 4-amino-1-n-butyl piperidine and 6.3 grams of sodium bicarbonate in 75 milliliters of water and 35 milliliters of chloroform. After stirring overnight at room temperature the mixture was filtered, washed with water, and dried to give 4.2 grams of the title compound. Melting Point 174°-175°C.

reactant | N-acetylsulphanilyl chloride | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
reactant | 4-amino-1-n-butyl piperidine | 4.7 grams | NC1CCN(CC1)CCCC | C9H20N2
reactant | sodium bicarbonate | 6.3 grams | C([O-])(O)=O.[Na+]
solvent | water | 75 milliliters | O | H2O
solvent | chloroform | 35 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 4-Acetamido-N-(1-n-butyl-4-piperidyl)-benzenesulphonamide | 4.2 grams | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1CCN(CC1)CCCC | C17H27N3O3S
